US08809267B2
To a solution of 4-hydroxy-7-methoxy-quinoline-2-carboxylic acid methyl ester (2.0 g, 8.58 mmol) in methanol (85 mL) was added hydrazine mono hydrate (1.7 g, 34.3 mmol) and the mixture was refluxed for 6 hours. The crude reaction mixture was concentrated in vacuo and the residue was taken up in methanol and poured onto an ice/water mixture (800 mL). A white precipitate formed, which was collected by filtration and washed with cold water. The filter cake was then dried on house vacuum by passing air through in sintered glass funnel, and then dried on vacuum oven at 45° C. overnight to afford 4-hydroxy-7-methoxy-quinoline-2-carboxylic acid hydrazide (1.6 g, 80% yield). 1H NMR (DMSO-d6, 300 MHz) δ 11.57 (s, 1H), 10.28 (s, 1H), 7.95 (d, 1H), 7.43 (d, 1H), 7.01-6.91 (m, 1H), 6.54 (s, 1H), 4.72 (br s, 2H), 3.82 (s, 3H). LCMS found 234.18 [M+H]+.

reactant | 4-hydroxy-7-methoxy-quinoline-2-carboxylic acid methyl ester | 8.58 mmol, 2.0 g | COC(=O)C1=NC2=CC(=CC=C2C(=C1)O)OC | C12H11NO4
reactant | hydrazine mono hydrate | 34.3 mmol, 1.7 g | O.NN
solvent | methanol | 85 mL | CO | CH4O
product | 4-hydroxy-7-methoxy-quinoline-2-carboxylic acid hydrazide | 1.6 g, 80% yield | OC1=CC(=NC2=CC(=CC=C12)OC)C(=O)NN | C11H11N3O3
